US05155133
c) (2S)-1-(4-cyanophenoxy)-3-methanesulfonyloxy propan-2-ol
57.2 g of (2R)-3-(4 cyanophenoxy)propane-1,2-diol was dissolved in dry pyridine, (300 ml) and treated dropwise with methanesulfonyl chloride, (20.7 ml), at -10° C. The reaction mixture was kept at 5° C. overnight, evaporated at reduced pressure and poured on ice and 2 M hydrochloric acid. The solid precipitate was recrystallized three times from methanol to yield 12.3 g of the title compound, m.p. 119°-121° C., [α]D20 +9.7° (c 1.0, CH3OH).

reactant | (2R)-3-(4 cyanophenoxy)propane-1,2-diol | 57.2 g | C(#N)C1=CC=C(OC[C@@H](CO)O)C=C1 | C10H11NO3
reactant | methanesulfonyl chloride | 20.7 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
product | (2S)-1-(4-cyanophenoxy)-3-methanesulfonyloxy propan-2-ol | 12.3 g | C(#N)C1=CC=C(OC[C@@H](COS(=O)(=O)C)O)C=C1 | C11H13NO5S
